US05760021
IV. Synthesis of 5-Amino-2-hydroxy-2-phosphonopentanoic Acid
The hydrogenation of 4-cyano-2-hydroxy-2-phosphonobutanoic acid is carried out using the hydrogenation technique of Freifelder (J. Am. Chem. Soc., 8, 2386 (1960)). The cyano compound (2.09 g; 0.01 mole) is placed in 20 ml of 10% methanolic ammonia. Rhodium on alumina (5%) catalyst (0.5 g) is added, and the mixture is hydrogenated at 40 PSI on a Parr apparatus for several hours (until uptake of hydrogen is complete). The catalyst is filtered off, and the filtrate is evaporated dry. The residue treated with cation exchange resin in H+ form to convert the material to acid form. The solution containing it is evaporated to dryness under vacuum. The product is purified by dissolving the residue in water, adding ethanol to give a precipitate, and collecting the solids by filtration. Further purification is accomplished by again recrystallizing from water/ethanol.

reactant | 4-cyano-2-hydroxy-2-phosphonobutanoic acid | C(#N)CCC(C(=O)O)(P(=O)(O)O)O | C5H8NO6P
reactant | hydrogen | [H][H] | H2
solvent | ammonia | 20 ml | N | H3N
catalyst | Rhodium on alumina | [Rh] | Rh
product | 5-Amino-2-hydroxy-2-phosphonopentanoic Acid | NCCCC(C(=O)O)(P(=O)(O)O)O | C5H12NO6P
